US08648066B2
1,1-Dimethylethyl 6-bromo-2,4-dimethyl-1H-benzimidazole-1-carboxylate.
Synthesized according to the method of reagent preparation 19 using 5-bromo-3-methylbenzene-1,2-diamine and acetylation using acetyl chloride in tetrahydrofuran in step 1 the BOC protection with di-tert-butyl dicarbonate in step 3. MS (EI) for C14H17BrN2O2: 267, 269 (M-Boc, Br isotope pattern).

reactant | 5-bromo-3-methylbenzene-1,2-diamine | BrC1=CC(=C(C(=C1)N)N)C | C7H9BrN2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 6-bromo-2,4-dimethyl-1H-benzimidazole-1-carboxylate | BrC=1C=C(C2=C(N(C(=N2)C)C(=O)OC(C)(C)C)C1)C | C14H17BrN2O2
